US07579469B2
Synthesis of 1-[2-hydroxy-4-(3-hydroxymethylphenyl)-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one
To a solution of the 3-[4,4,4-trifluoro-3-hydroxy-1,1-dimethyl-3-(4-oxo-4H-quinolin-1-ylmethyl)butyl]benzaldehyde (20.0 mg, 0.05 mmol) in methanol (0.50 mL) and THF (0.50 mL) was added NaBH4 (20.0 mg, 0.48 mmol). The reaction vessel was sealed and stirred for 45 minutes. The solvent was evaporated in vacuo and the off-white solid was re-dissolved in EtOAc and water and transferred to a separatory funnel. The aqueous layer was extracted with two 10 mL portions of EtOAc and the combined organic layers were washed with one 10 mL portion of brine, dried over magnesium sulfate, filtered, and the solvent was evaporated in vacuo to give a white foam. The material was chromatographed (6% MeOH/CH2Cl2, 0.5% NH4OH) to give the desired compound, 1-[2-hydroxy-4-(3-hydroxymethylphenyl)-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one as a white foam (6.6 mg, 36%).

reactant | 3-[4,4,4-trifluoro-3-hydroxy-1,1-dimethyl-3-(4-oxo-4H-quinolin-1-ylmethyl)butyl]benzaldehyde | 0.05 mmol, 20.0 mg | FC(C(CC(C)(C)C=1C=C(C=O)C=CC1)(CN1C=CC(C2=CC=CC=C12)=O)O)(F)F | C23H22F3NO3
reactant | NaBH4 | 0.48 mmol, 20.0 mg | [BH4-].[Na+]
solvent | methanol | 0.50 mL | CO | CH4O
solvent | THF | 0.50 mL | C1CCOC1 | C4H8O
product | 1-[2-hydroxy-4-(3-hydroxymethylphenyl)-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 6.6 mg, 36% | OC(CN1C=CC(C2=CC=CC=C12)=O)(CC(C)(C)C1=CC(=CC=C1)CO)C(F)(F)F | C23H24F3NO3
